US09085555B2
A. 5-Bromo-3-chloro-2-fluoro-benzylamine
To a solution of 5-bromo-3-chloro-2-fluorobenzonitrile (13.2 g, 56.3 mmol) in THF (200 mL) was added under an argon atmosphere a 1M solution of boran-tetrahydrofuran-complex (70.4 mL, 70.4 mmol) dropwise over 30 min. The reaction mixture was then heated at 65° C. for 1.5 h. After cooling to RT, a 2N HCl solution (70.4 mL, 141 mmol) was added dropwise over 30 min. The reaction mixture was then again heated at 65° C. for 1 h and subsequently cooled to RT. Volatiles were evaporated and the residue was taken up in 1M aqueous HCl solution, followed by extraction with EtOAc (3×150 mL). The combined organics were washed with 1M aqueous HCl solution. The combined acid phases were basified to pH=12 by addition of 4M aqueous NaOH solution and then extracted with EtOAc (3×150 mL). The organics were dried (Na2SO4), filtered and evaporated in vacuo to afford the title compound as a yellowish oil. MS (LC/MS): 238.0 [M+H]+; tR (HPLC conditions c): 3.25 min. The material thus obtained was used directly in the next step without further purification

reactant | 5-bromo-3-chloro-2-fluorobenzonitrile | 56.3 mmol, 13.2 g | BrC=1C=C(C(=C(C#N)C1)F)Cl | C7H2BrClFN
reactant | HCl | 141 mmol, 2N, 70.4 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 70.4 mmol, 70.4 mL | O1CCCC1 | C4H8O
product | 5-Bromo-3-chloro-2-fluoro-benzylamine | BrC=1C=C(C(=C(CN)C1)F)Cl | C7H6BrClFN
